US04878968
(tert-Butoxycarbonyl)aminocubane
To a stirred solution of 7.6 g (28 millimoles) of diphenylphosphoryl azide, 2.9 g (29 millimoles) of triethylamine, and 40 ml of tert-butyl alcohol was added 4.0 g (27 millimoles) of carboxycubane. The mixture was slowly brought to reflux over a 2 hour period and held there for 18 hours. After being allowed to cool, the reaction mixture was poured into 200 ml of saturated, aqueous sodium bicarbonate and stirred vigorously for 1 hour. The precipitate (4.9 g, 85%) was filtered, washed with water, and dried. The carbamate was used without further purification. An NMR spectrum of the product dissolved in deuterated chloroform had peaks assigned the following sigma values, compared to tetramethylsilane: 5.2 ppm (singlet, 1 hydrogen). An infrared spectrum of the product, run in a potassium bromide pellet, had peaks at the following frequencies: 2978, 1715, 1361, and 1167 cm-1.

reactant | diphenylphosphoryl azide | 28 millimoles, 7.6 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 29 millimoles, 2.9 g | C(C)N(CC)CC | C6H15N
reactant | carboxycubane | 27 millimoles, 4.0 g | C(=O)(O)C12C3C4C5C3C1C5C24 | C9H8O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tert-butyl alcohol | 40 ml | C(C)(C)(C)O | C4H10O
product | (tert-Butoxycarbonyl)aminocubane | C(C)(C)(C)OC(=O)NC12C3C4C5C3C1C5C24 | C13H17NO2
